US08022205B2
To a toluene solution (300 ml) at −78° C. in which 2,5-dibromopyridine (4.7 g) was dissolved, n-butyl lithium hexane solution (1.6 M) was added dropwise, followed by stirring at −78° C. for 3 hours. To the reaction mixture, dry ice (ca. 50 g) was added, and followed by further stirring at room temperature for 10 hours. Water (100 ml) was added, and the aqueous layer washed with ethyl acetate (100 ml×2) was neutralized with 5M−HCl aqueous solution under ice cooling, and the resulting precipitate was filtered and dried, to obtain 5-bromo-pyridine-2-carboxylic acid as a colorless powder (2.0 g, 50%). Then, 5-bromo-pyridine-2-carboxylic acid (202 mg), N-methylpiperazine (124 μl), WSCI (230 mg), HOBt (149 mg) and triethylamine (140 μl) were dissolved in acetonitrile (10 ml), followed by stirring at room temperature for 10 hours. To the reaction mixture, water (10 ml) was added, followed by extraction with ethyl acetate (10 ml). The organic layer was washed with saturated aqueous sodium chloride solution, followed by drying over sodium sulfate. After filtering off the sodium sulfate, the filtrate was concentrated under reduced pressure, and the resulting residue was purified by amino silica gel column chromatography (dichloromethane), to obtain (5-bromo-pyridin-2-yl)-(4-methyl-piperazin-1-yl)-methanone as a yellow oil (70 mg, 25%).

reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
reactant | n-butyl lithium hexane | 1.6 M | CCCCCC.C(CCC)[Li]
reactant | dry ice | ca. 50 g | C(=O)=O | CO2
reactant | Water | 100 ml | O | H2O
reactant | 2,5-dibromopyridine | 4.7 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
product | 5-bromo-pyridine-2-carboxylic acid | 2.0 g, 50% | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
